US04618610
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.5 g), methyl isocyanate (0.48 ml) and pyridine (40 ml) was stirred at room temperature for 4.5 hours, and ethanol (5 ml) was added. The solvent was then distilled off under reduced pressure. To the oily residue was added 10% HCl, and the thus-produced crystals were collected by filtration, washed with water, dried and recrystallized from aqueous dimethylformamide to give 6-[4-(3-methylureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.43 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.5 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | methyl isocyanate | 0.48 ml | CN=C=O | C2H3NO
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-[4-(3-methylureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.43 g | CNC(NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C)=O | C12H15N5O2
